* source N=18
R_R10         N24903 N24561  10k TC=0,0 
C_C3         N25299 0  33n  TC=0,0 
Q_Q16         N24309 N24323 N24329 QBC856B 
C_C2         N24335 N24643  4.7u  TC=0,0 
R_R5         N24643 N24335  82 TC=0,0 
Q_Q14         N24513 N32290 N25177 QBC846B 
C_C6         N24297 N52395  10u  TC=0,0 
Q_Q18         N24513 N24309 N24643 QBC856B 
Q_Q10         N24309 N24205 N244671 QBC846B 
C_C4         N25803 N24205  2.2n  TC=0,0 
Q_Q11         N24323 N24561 N244971 QBC846B 
R_R6         N24943 N25177  51 TC=0,0 
X_P6         0 N25807 N25807 POT PARAMS: SET=1 VALUE=1.5k
Q_Q13         N24297 N50057 N25105 QBC846B 
R_R7         N24943 N25105  120 TC=0,0 
X_P5         N52395 N24853 0 POT PARAMS: SET=0.5 VALUE=500k
Q_Q12         N24335 N24513 N24297 QBC846B 
J_Q19         0 N25255 N24903 JMMBFJ309LT1 
R_R2         N25585 N24335  51 TC=0,0 
X_D3         N25299 N25407 awb1n4148 PARAMS:                
Q_Q17         N24323 N24323 N25585 QBC856B 
R_R15         N25807 N24205  2.6k TC=0,0 
C_C5         N24205 0  2.2n  TC=0,0 
R_R9         N45589 N41989  2k TC=0,0 
R_R1         N24329 N24335  51 TC=0,0 
R_R12         0 N25407  500k TC=0,0 
X_P2         N25299 N25255 N25329 POT PARAMS: SET=0 VALUE=500k
R_R11         0 N25329  420k TC=0,0 
R_R3         N45752 N251490  150 TC=0,0 
V_V1         N24335 0 20
V_V2         0 N24943 20
C_C1         N24309 N24513  100p  TC=0,0 
X_P7         N25803 N24235 N24235 POT PARAMS: SET=1 VALUE=1.5k
R_R8         N41989 N24561  10k TC=0,0 
R_R17         N45991 N24853  5k TC=0,0 
R_R13         N24297 N25407  10k TC=0,0 
R_R21         N32290 0  2.2k TC=0,0 
X_D5         N32302 N24943 awb1n4148 PARAMS:                
X_D4         N32290 N32302 awb1n4148 PARAMS:                
R_R23         N24745 N244671  150 TC=0,0 
R_R24         N24745 N244971  150 TC=0,0 
J_Q20         N24745 N24943 N251490 JMMBFJ309LT1 
R_R27         N24297 N24235  2.6k TC=0,0 
R_R28         N24297 N45589  10k TC=0,0 
R_R29         N24943 N45752  80 TC=0,0 
R_R30         0 N45991  5k TC=0,0 
R_R32         N50057 0  2.2k TC=0,0 
X_D6         N50057 N50109 awb1n4148 PARAMS:                
X_D7         N50109 N24943 awb1n4148 PARAMS:                
